US07601752B2
A suspension of 2-amino-5-bromobenzonitrile (1 g), 2-hydroxypyridine (730 mg), CuI (190 mg), potassium carbonate (770 mg) and 8-hydroxyquinoline (150 mg) in 7 ml DMSO was heated for 1.5 h at 160° C. The reaction mixture was afterwards cooled, diluted with CH2Cl2 and filtered through decalite. The organic phase was extracted with water and brine and purified by chromatography (silica gel, AcOEt/heptane) to yield 2-amino-5-(2-oxo-2H-pyridin-1-yl)-benzonitrile as a yellow solid (120 mg). MH+=212.1

reactant | 2-amino-5-bromobenzonitrile | 1 g | NC1=C(C#N)C=C(C=C1)Br | C7H5BrN2
reactant | 2-hydroxypyridine | 730 mg | OC1=NC=CC=C1 | C5H5NO
reactant | potassium carbonate | 770 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 8-hydroxyquinoline | 150 mg | OC=1C=CC=C2C=CC=NC12 | C9H7NO
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | CuI | 190 mg | [Cu]I
product | 2-amino-5-(2-oxo-2H-pyridin-1-yl)-benzonitrile | 120 mg | NC1=C(C#N)C=C(C=C1)N1C(C=CC=C1)=O | C12H9N3O
